US04195916
Preparation of (+)-4-(2'-methylbutyl)phenyl 2-chloro-4-hydroxybenzoate.
This esterficiation may be carried out by the method described by Lowrance (Tet. Lett. 1971, 3453). The reactants (2-chloro-4-hydroxybenzoic acid and (+)4-(2'-methylbutyl)phenol in equimolar amounts) are dissolved in toluene and heated in a Dean and Stark apparatus together with catalytic amounts of sulphuric acid and boric acid. After crystallisation from ethanol/water, the product has the m.p. 142° C.

reactant | 2-chloro-4-hydroxybenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)O | C7H5ClO3
reactant | (+)4-(2'-methylbutyl)phenol | CC(CC1=CC=C(C=C1)O)CC | C11H16O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | B(O)(O)O | BH3O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (+)-4-(2'-methylbutyl)phenyl 2-chloro-4-hydroxybenzoate | ClC1=C(C(=O)OC2=CC=C(C=C2)CC(CC)C)C=CC(=C1)O | C18H19ClO3
